US04904674
3-[2-(5-Hydroxymethyl-2-thienyl)ethenyl]benzo[b]thiophene
A stirred, chilled (0° C.) suspension of sodium borohydride (0.50 g) and absolute ethanol (250 ml), under nitrogen, was treated in portions with 5-[2-(benzo[b]thiophen-3-yl)ethenyl]thiophene-2-carboxaldehyde (3.0 g). After stirring at room temperature overnight, the mixture was poured into water (250 ml). The organic phase was removed in vacuo, and the resulting aqueous phase was extracted with dichloromethane. The combined, dried over anhydrous magnesium sulfate, filtered organic phase was evaporated. The residue was purified by high performance liquid chromatography (silica gel, loaded and eluted first with dichloromethane, then with ethyl acetate). The appropriate fractions were combined and evaporated. The residue was recrystallized from toluene/hexane to yield 2.15 g (71%) of product, mp 68°-70° C.

reactant | sodium borohydride | 0.50 g | [BH4-].[Na+]
reactant | ethanol | 250 ml | C(C)O | C2H6O
reactant | 5-[2-(benzo[b]thiophen-3-yl)ethenyl]thiophene-2-carboxaldehyde | 3.0 g | S1C2=C(C(=C1)C=CC1=CC=C(S1)C=O)C=CC=C2 | C15H10OS2
solvent | water | 250 ml | O | H2O
product | 3-[2-(5-Hydroxymethyl-2-thienyl)ethenyl]benzo[b]thiophene | 2.15 g, 71% | OCC1=CC=C(S1)C=CC=1C2=C(SC1)C=CC=C2 | C15H12OS2
